US09079911B2
4-[5-{[4-Fluoro-2-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]-6-methoxy-N,N-dimethylpyrimidin-2-amine
A mixture of [4-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-6-methoxy-pyrimidin-2-yl]-dimethyl-amine (60.0 mg, 0.23 mmol), 4-fluoro-2-[1,2,3]triazol-2-yl-benzoic acid (52.0 mg, 0.25 mmol), HATU (130.0 mg, 0.34 mmol) and DIPEA (0.12 mL, 0.68 mmol) was stirred into DMF (4.0 mL) at room temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate (60.0 mL) and washed with water (2×100 mL). The organic phase was dried (Na2SO4), filtered and concentrated to dryness. The crude product was purified using Agilent HPLC (Basic system) to yield pure title compound (52.0 mg, 50.5%). MS (ESI) mass calcd. for C22H25FN8O2, 452.49; m/z found [M+H]+. 1H NMR (CDCl3): 7.83-7.66 (m, 3H), 7.42-7.36 (m, 1H), 7.16-7.08 (m, 1H), 5.00-4.89 (m, 1H), 3.90-3.78 (m, 4H), 3.77-3.19 (m, 6H), 3.17-2.82 (m, 9H).

reactant | [4-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-6-methoxy-pyrimidin-2-yl]-dimethyl-amine | 0.23 mmol, 60.0 mg | C1N(CC2C1CNC2)C2=NC(=NC(=C2)OC)N(C)C | C13H21N5O
reactant | 4-fluoro-2-[1,2,3]triazol-2-yl-benzoic acid | 0.25 mmol, 52.0 mg | FC1=CC(=C(C(=O)O)C=C1)N1N=CC=N1 | C9H6FN3O2
reactant | HATU | 0.34 mmol, 130.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.68 mmol, 0.12 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 60.0 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 4-[5-{[4-Fluoro-2-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]-6-methoxy-N,N-dimethylpyrimidin-2-amine | 52.0 mg, 50.5% | FC1=CC(=C(C=C1)C(=O)N1CC2C(C1)CN(C2)C2=NC(=NC(=C2)OC)N(C)C)N2N=CC=N2 | C22H25FN8O2
